US08703810B2
To a solution of (R)-1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-3-methyl-piperidine (500 mg, 1.9 mmol) in THF (5 mL) at 0° C., TBAF (1M in THF, 2.8 mL) was slowly added. The reaction mixture was stirred at room temperature for 2 h and concentrated. The residue was purified by silica gel column chromatography (MeOH/CH2Cl2=1/50) to give (R)-2-(3-methyl-piperidin-1-yl)-ethanol (0.23 g) as colorless oil. 1H NMR (DMSO-d6): δ 4.39 (br s, 1H), 3.48 (t, 2H), 2.80-2.77 (m, 2H), 2.38 (t, 2H), 1.88-1.86 (m, 1H), 1.65-1.47 (m, 5H), 0.81 (d, 3H), 0.82-0.78 (m, 1H); LCMS: 144.1 [M+H]+.

reactant | (R)-1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-3-methyl-piperidine | 1.9 mmol, 500 mg | C(C)(C)(C)[Si](OCCN1C[C@@H](CCC1)C)(C)C | C14H31NOSi
reactant | TBAF | 1M, 2.8 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (R)-2-(3-methyl-piperidin-1-yl)-ethanol | 0.23 g | C[C@H]1CN(CCC1)CCO | C8H17NO
